US07786155B2
To a mixture of N-[4-(2-bromo-acetyl)-3-fluoro-phenyl]-acetamide (1.1 g, 2.8 mmol) and (+/−)-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one (541 mg, 2.5 mmol) in 5 mL acetone potassium carbonate (698 mg, 5 mmol) is added and the reaction mixture is heated at 70° C. for 10 min in the microwave oven (Biotage Initiator). The mixture is cooled to room temperature, filtered and the filtrate evaporated to yield the crude product which is subjected to flash chromatography. ISCO Companion CombiFlash, 40 g silica gel, cyclohexane/ethyl acetate-gradient, ethyl acetate 0-100% to give (+/−)-N-{3-fluoro-4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-acetamide (956 mg, 71%). LC/MS at 254 nm; [M+H] 410; Rt 2.850 min

reactant | N-[4-(2-bromo-acetyl)-3-fluoro-phenyl]-acetamide | 2.8 mmol, 1.1 g | BrCC(=O)C1=C(C=C(C=C1)NC(C)=O)F | C10H9BrFNO2
reactant | (+/−)-2-methyl-5-phenyl-5-propyl-3,5-dihydro-imidazol-4-one | 2.5 mmol, 541 mg | CC1=NC(C(N1)=O)(CCC)C1=CC=CC=C1 | C13H16N2O
reactant | acetone potassium carbonate | 5 mmol, 5 mL, 698 mg | C([O-])([O-])=O.[K+].CC(=O)C.[K+]
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+/−)-N-{3-fluoro-4-[2-(2-methyl-5-oxo-4-phenyl-4-propyl-4,5-dihydro-imidazol-1-yl)-acetyl]-phenyl}-acetamide | 956 mg, 71% | FC=1C=C(C=CC1C(CN1C(=NC(C1=O)(CCC)C1=CC=CC=C1)C)=O)NC(C)=O | C23H24FN3O3
